US07294644B2
1-(2-Cyclohexyl-ethyl)-5-(5-fluoro-2-methoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid cyclohexylamide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(5-fluoro-2-methoxy-phenyl)-ethanone as compound of formula S, 2-cyclohexyl-ethylamine as R3—(CH2)m—NH2 and cyclohexylamine as R1R2NH, MS (ISP) 441.6 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(5-fluoro-2-methoxy-phenyl)-ethanone | BrCC(=O)C1=C(C=CC(=C1)F)OC | C9H8BrFO2
reactant | 2-cyclohexyl-ethylamine | C1(CCCCC1)CCN | C8H17N
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 1-(2-Cyclohexyl-ethyl)-5-(5-fluoro-2-methoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)F)OC)CCC1CCCCC1)C | C27H37FN2O2
